US04362728
A mixture of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(2-aminoethyl)thiomethylpyrimidine (0.31 g.), methanol (5 ml.) and 1,2-dimethoxycyclobutene-3,4-dione (0.14 g.) was stirred at room temperature for 18 hours. A 33% w/v solution of methylamine in ethanol (5 ml.) was added and the mixture left at room temperature for 18 hours and then evaporated to dryness. The residue was purified by preparative thin layer chromatography using ethyl acetate/methanol/ammonia 6:1:0.5 v/v/v as developing solvent to give 1-(2-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl-methylthio]ethylamino)-2-methylaminocyclobutene-3,4-dione (0.16 g.) characterised as the hydrogen maleate, m.p. 178°-184° after recrystallisation from a mixture of methanol and acetonitrile.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(2-aminoethyl)thiomethylpyrimidine | 0.31 g | FC(CN=C(NC1=NC(=NC=C1)CSCCN)N)(F)F | C10H15F3N6S
reactant | methanol | 5 ml | CO | CH4O
reactant | 1,2-dimethoxycyclobutene-3,4-dione | 0.14 g | COC1=C(C(C1=O)=O)OC | C6H6O4
reactant | methylamine | CN | CH5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(2-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl-methylthio]ethylamino)-2-methylaminocyclobutene-3,4-dione | 0.16 g | FC(CN=C(NC1=NC(=NC=C1)CSCCNC1=C(C(C1=O)=O)NC)N)(F)F | C15H18F3N7O2S
